US07384934B2
(S)-7-Chloro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine 7-Chloro-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride (1.20 g, 4.19 mmol), (S)-2-(2-methoxy-ethyl)-piperazine (1.51 g, 10.48 mmol), DMSO (4.0 ml), and toluene (16.0 ml). Stir and heat the mixture at 105° C. After 24 hours, cool the mixture to ambient temperature and stir it for 16 hours. Dilute the mixture with ethyl acetate and wash the organic layer with 0.1N NaOH and brine. Dry (sodium sulfate) and concentrate the organic layer to residue. Purify the residue on silica gel using a gradient of dichloromethane to dichloromethane/methanol (90:10) to give 571.5 mg (36%) of an brown solid: mass spectrum (ion spray): m/z=377.1 (M+1).

reactant | 7-Chloro-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 4.19 mmol, 1.20 g | Cl.ClC1=CC2=C(NC=3SC=CC3C(=N2)N)C=C1
reactant | (S)-2-(2-methoxy-ethyl)-piperazine | 10.48 mmol, 1.51 g | COCC[C@@H]1NCCNC1 | C7H16N2O
reactant | DMSO | 4.0 ml | CS(=O)C | C2H6OS
reactant | toluene | 16.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-7-Chloro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 571.5 mg, 36% | ClC1=CC2=C(NC=3SC=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C=C1 | C18H21ClN4OS
